US05102877
To a solution of 1,2-bis(allyloxycarbonyl)-4-(1-hydroxyethyl)pyrazolidine (13 g) in acetone (260 ml) was added dropwise Jones Reagent (2.67N, 34 ml) at 0° C. After stirring for 1 hour, to the reaction mixture was added dropwise 2-propanol (200 ml) and the reaction mixture was stirred at 0° C. for 1 hour. The precipitate was filtered off and the filtrate was evaporated to give a residual oil, which was extracted with ethyl acetate and the organic layer was separated, washed with brine, and dried over magnesium sulfate. Evaporation of the solvent gave an oil, which was chromatographed on silica gel (300 ml) eluting with a mixture of hexane and ethyl acetate (1:1, V/V) to give 4-acetyl-1,2-bis(allyloxycarbonyl)pyrazolidine (9.18 g).

reactant | 1,2-bis(allyloxycarbonyl)-4-(1-hydroxyethyl)pyrazolidine | 13 g | C(C=C)OC(=O)N1N(CC(C1)C(C)O)C(=O)OCC=C | C13H20N2O5
reactant | Jones Reagent | 2.67N, 34 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-propanol | 200 ml | CC(C)O | C3H8O
solvent | acetone | 260 ml | CC(=O)C | C3H6O
product | 4-acetyl-1,2-bis(allyloxycarbonyl)pyrazolidine | 9.18 g | C(C)(=O)C1CN(N(C1)C(=O)OCC=C)C(=O)OCC=C | C13H18N2O5
